US08217184B2
(S)-2-methyl-2-(naphthalene-2-yl) oxirane
White solid, 85% yield, >99% ee (CHIRALCEL OJ-H, hexane/iPrOH 99.5:0.5); [α]D23 +3.3° (c=1.00, CHCl3); 1H NMR (CDCl3): δ7.85-7.80 (m, 4H), 7.51-7.43 (m, 3H), 3.06-3.04 (d, J=5.6 Hz, 1H), 2.90-2.88 ppm (d, J=5.6 Hz, 1H), 1.82 ppm (s, 3H).

reactant | hexane iPrOH | CCCCCC.CC(C)O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-methyl-2-(naphthalene-2-yl) oxirane | 85% yield | C[C@]1(OC1)C1=CC2=CC=CC=C2C=C1 | C13H12O
